US04303660
22.9 g (0.1 mole) of 1-nitro-5-methyl-5,6-dihydropyrazolo[1,5-c]quinazoline is boiled with 120 ml of acetic anhydride for 1 hour, then the solution obtained is poured into water. The product that solidifies is filtered off, washed with water and dried. Thus, 25.0 g (83%) of 1-nitro-5-methyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline are obtained. M.p.: 149°-150° C.

reactant | 1-nitro-5-methyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 0.1 mole, 22.9 g | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C | C11H10N4O2
reactant | acetic anhydride | 120 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 1-nitro-5-methyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 25.0 g, 83% | [N+](=O)([O-])C=1C=NN2C(N(C=3C=CC=CC3C21)C(C)=O)C | C13H12N4O3
